US04235820
5-(3-Iodopropyl)-3-iodo-5H-dibenzo[a,d]cycloheptene
Phosphorus pentoxide (1.28 g.) and concentrated (85%) phosphoric acid (2.7 ml.) are mixed well and cooled to room temperature. Potassium iodide (6.6 g., 0.04 mole), finely powdered, and 5-(3-ethoxypropyl)-3-iodo-5H-dibenzo[a,d]cycloheptene (4.0 g., 0.01 mole) are added and the mixture stirred and heated in an oil bath at 110° for 16 hours.

reactant | Potassium iodide | 0.04 mole, 6.6 g | [I-].[K+]
reactant | 5-(3-ethoxypropyl)-3-iodo-5H-dibenzo[a,d]cycloheptene | 0.01 mole, 4.0 g | C(C)OCCCC1C2=C(C=CC3=C1C=C(C=C3)I)C=CC=C2 | C20H21IO
product | 5-(3-Iodopropyl)-3-iodo-5H-dibenzo[a,d]cycloheptene | ICCCC1C2=C(C=CC3=C1C=C(C=C3)I)C=CC=C2 | C18H16I2
